### ISSUE TITLE
RFC: `mvcgen` should "purify" any emitted stateful subgoals

### ISSUE THREAD

**Issue by rish987** [leanprover/lean4#9363]
### Proposal

In the following MWE, `mvcgen` emits a proof mode goal that is somewhat difficult to work with:
```lean
import Std.Tactic.Do

open Std.Do

set_option mvcgen.warning false

abbrev SM := StateM Nat

axiom P : Nat → Prop
axiom P' : Nat → Prop
axiom Q : Nat → Prop
axiom R : Assertion ps

abbrev n : SVal (Nat::[]) Nat := fun s => SVal.pure s

axiom hPQ : ∀ n, P n → P' n → Q n

axiom G : StateM Nat Unit
axiom H : StateM Nat Unit

axiom b : Bool

noncomputable def F : StateM Nat Unit := do
  G
  H

@[spec]
axiom G_spec : ⦃⌜True⌝⦄ G ⦃⇓ _ => ⌜P #n⌝ ∧ ⌜P' #n⌝⦄

@[spec]
axiom H_spec : ⦃⌜Q #n⌝⦄ H ⦃⇓ _ => R⦄

theorem F_spec :
   ⦃⌜True⌝⦄
   F
   ⦃⇓ _ => R⦄ := by
  unfold F
  mvcgen

  -- Goal:
  -- case success
  -- r✝ : Unit
  -- ⊢ 
  -- h : ⌜P (#n tuple)⌝ ∧ ⌜P' (#n tuple)⌝
  -- ⊢ₛ ⌜Q (#n tuple)⌝
  sorry
```

To complete the proof, we need to do some amount of preprocessing on this goal to get to a point where we can use `hPQ`:

```lean
theorem F_spec :
   ⦃⌜True⌝⦄
   F
   ⦃⇓ _ => R⦄ := by
  unfold F
  mvcgen

  -- FIXME ideally, mvcgen would do these four steps automatically for us
  mintro ∀_
  mframe
  mpure_intro
  simp only [SPred.and_cons, SVal.curry_cons, SVal.curry_nil, SVal.uncurry_cons, SVal.uncurry_nil, SPred.and_nil] at *

  -- Goal:
  -- case hp
  -- r✝ : Unit
  -- s✝ : Nat
  -- h : P s✝ ∧ P' s✝
  -- ⊢ Q s✝
  cases h
  apply hPQ
  assumption
  assumption
```
It would seem that the four steps following the FIXME comment are fairly "standard": you start by introducing as much state as possible via `mintro ∀_`, turn all of the stateful hypotheses (`MGoal.hyps`) into pure ones with `mframe`, turn the stateful goal (`MGoal.target`) into a pure one using `mpure_intro`, and finally simplify away all of the `Std.Do`-specific components with the list of theorems used above.

In general, we can use a tactic like this:
```lean
macro "mvcgen_aux" : tactic => do
  `(tactic|
    (repeat mintro ∀_
     try mframe
     mpure_intro
     simp only [SPred.and_cons, SVal.curry_cons, SVal.curry_nil, SVal.uncurry_cons, SVal.uncurry_nil, SPred.and_nil] at *))

theorem F_spec' :
   ⦃⌜True⌝⦄
   F
   ⦃⇓ _ => R⦄ := by
  unfold F
  mvcgen
  mvcgen_aux

  cases h
  apply hPQ <;> assumption
```
I *think* that `mvcgen` should be doing this on its own. In every instance where I have used it so far, at least, it has always helped me to first call `mvcgen_aux` on any stateful subgoals emitted by `mvcgen` (see, for instance [my proof of `qsort`'s `qpartition` subroutine](https://github.com/rish987/qsort/blob/af25814aeb95bceed2d668397c62ff46e5452393/Qsort/Monadic/TerminatingSV.lean#L200)). While perhaps there are certain situations where we want to leave a stateful subgoal as-is, my hunch is that this is the exception rather than the norm.

(Lean 4.23.0, commit a4f38cc78250f4c7f813c8d20700d97a53f0d3d6)

### Community Feedback

Mentioned to Sebastian Graf in DMs.

**Comment by sgraf812** [comment]
Hmm. I think we agree that proving

```
  -- Goal:
  -- case success
  -- r✝ : Unit
  -- ⊢ 
  -- h : ⌜P (#n tuple)⌝ ∧ ⌜P' (#n tuple)⌝
  -- ⊢ₛ ⌜Q (#n tuple)⌝
```

is beyond what you can reasonably expect from a VC generator.

You can prove this goal by
```
simp +contextual [SPred.entails_elim_cons, hPQ]
```

where

```
SPred.entails_elim_cons {σ : Type u} (P Q : SPred (σ::σs)) : P ⊢ₛ Q ↔ ∀ s, (P s ⊢ₛ Q s)
```

I did not include this lemma in the default simp set because it eagerly destroys the proof mode, but perhaps that is exactly what users expect when they do `simp`. Without this lemma you indeed need to do

```
  mintro ∀_
  simp +contextual [hPQ]
```

Which still isn't all too bad?

---

The RFC is asking to do these four steps by default

```
  mintro ∀_
  mframe
  mpure_intro
  simp only [SPred.and_cons, SVal.curry_cons, SVal.curry_nil, SVal.uncurry_cons, SVal.uncurry_nil, SPred.and_nil] at *
```

This effectively leaves the proof mode to work with pure entailments. 

I'm curious: **Is that actually what you do most of the time?** I think that matches my experience!

Then it makes sense to do these steps (or rather `simp only [SPred.entails_elim_cons, SPred.and_cons, SVal.curry_cons, SVal.uncurry_cons, SVal.curry_nil, SVal.uncurry_nil, SPred.and_nil, SPred.entails_nil, and_imp]` in one fell swoop) by default. 
Alternatively, we may provide a wrapper tactic `mleave` that does these steps. You seem to have called this tactic `mvcgen_aux` in #9364 and #9365.

Doing it automatically would have the added benefit of not having to expose users of `mvcgen` to the stateful proof mode.

**Comment by rish987** [comment]
> I'm curious: **Is that actually what you do most of the time?** I think that matches my experience!

In my (limited) experience so far, it's what I do 100% of the time, though perhaps I just haven't yet encountered a case where I actually _want_ to stay in proof mode in one of the generated verification conditions. If I do encounter such a case, I'll be sure to post an update here. One possible reason I can think of is that when you have a complicated monad with several layers of state it's perhaps a bit nicer to not have to deal with long tails of state applications in your hypotheses/goals in the case that things are simple enough for the `mcases`/`massumption`/etc tactic variants to handle.

> Then it makes sense to do these steps (or rather `simp only [SPred.entails_elim_cons, SPred.and_cons, SVal.curry_cons, SVal.uncurry_cons, SVal.curry_nil, SVal.uncurry_nil, SPred.and_nil, SPred.entails_nil, and_imp]` in one fell swoop) by default. Alternatively, we may provide a wrapper tactic `mleave` that does these steps. You seem to have called this tactic `mvcgen_aux` in [#9364](https://github.com/leanprover/lean4/issues/9364) and [#9365](https://github.com/leanprover/lean4/issues/9365).
> 
> Doing it automatically would have the added benefit of not having to expose users of `mvcgen` to the stateful proof mode.

If we do end up doing something like `mleave` by default, we might want to have an `menter` tactic instead to "undo" the `mleave` step. That is, if a serious use case of wanting to stay in proof mode ever comes up. Though I'm not sure exactly how we could go about such a tactic. `mvcgen` would probably have to explicitly keep track of the `MetaM` state prior to `mleave` for `menter` to be able revert to it.

**Comment by sgraf812** [comment]
> If I do encounter such a case, I'll be sure to post an update here.

I think one such case is when the base monad is polymorphic. I.e., in `StateT Nat m Nat`, you can't completely eliminate the proof mode. But perhaps that's not something we should worry about too much.

#9454 introduces a separate tactic `mleave` for now to play around with. Not sure yet whether `mvcgen` should try `mleave` and thus the simplifier on every sub-goal; that could be quite a heavy hammer for an otherwise pretty slim tactic.

**Comment by rish987** [comment]
> [#9454](https://github.com/leanprover/lean4/pull/9454) introduces a separate tactic `mleave` for now to play around with.

Awesome, thanks!

> Not sure yet whether `mvcgen` should try `mleave` and thus the simplifier on every sub-goal; that could be quite a heavy hammer for an otherwise pretty slim tactic.

Perhaps we could have an `+mleave` option for `mvcgen` to tell it to do this on every subgoal? Or, if we want that to be the default, a `-mleave` option to disable it, in which case we can then leave it up to the user to call `mleave` on the individual subgoals.

**Comment by rish987** [comment]
It looks like `mvcgen` should also automatically apply these simp rules to any hypotheses it generates. For instance, in the `setZero` example, I had to do this manually after calling `mleave` so that `grind` would work:
```lean
abbrev gns : SVal ((Array Nat)::[]) (Array Nat) := fun s => SVal.pure s

noncomputable def setZero : StateM (Array Nat) Unit := do
  let mut i := 0
  let len := (← get).size
  for _ in [0:len] do
    let ns ← get
    if h : i < ns.size then
      modify fun _ => ns.set i 0 h
    i := i + 1

theorem setZero_spec :
   ⦃⌜#gns = ns⌝⦄
   setZero
   ⦃⇓ _ => ⌜(#gns).size = ns.size⌝ ∧ ⌜∀ i, (h : i < (#gns).size) → (#gns)[i]'h = 0⌝⦄ := by
  unfold setZero
  mvcgen

  case inv =>
    exact ⇓ (i, sp) =>
      ⌜(#gns).size = ns.size⌝ ∧
      ⌜ i = sp.rpref.length ⌝ ∧
      ⌜∀ j, (j < i) → (h : j < (#gns).size) → (#gns)[j]'h = 0⌝

  . mintro t
    mvcgen -- see #9474
    mleave
    simp only [SPred.and_cons, SVal.curry_cons, SVal.curry_nil,
        SVal.uncurry_cons, SVal.uncurry_nil, SPred.and_nil] at h -- FIXME `mvcgen` should have taken care of this?
    grind

  . mleave
    simp only [SPred.and_cons, SVal.curry_cons, SVal.curry_nil,
        SVal.uncurry_cons, SVal.uncurry_nil, SPred.and_nil] at h -- FIXME
    grind

  . mleave
    simp only [SPred.and_cons, SVal.curry_cons, SVal.curry_nil,
        SVal.uncurry_cons, SVal.uncurry_nil, SPred.and_nil] at h -- FIXME
    grind

  . mleave
    simp only [SPred.and_cons, SVal.curry_cons, SVal.curry_nil,
        SVal.uncurry_cons, SVal.uncurry_nil, SPred.and_nil] at h -- FIXME
    simp only [List.length_reverse, List.length_range']
    grind
```

**Comment by sgraf812** [comment]
I can confirm that the following test case adapted from the OP is fixed by the implicit `mleave` done as part of `mvcgen`:

```
import Std.Tactic.Do

open Std.Do

set_option mvcgen.warning false

abbrev SM := StateM Nat

axiom P : Nat → Prop
axiom P' : Nat → Prop
axiom Q : Nat → Prop
axiom R : Assertion ps

axiom hPQ : ∀ n, P n → P' n → Q n

axiom G : StateM Nat Unit
axiom H : StateM Nat Unit

axiom b : Bool

noncomputable def F : StateM Nat Unit := do
  G
  H

@[spec]
axiom G_spec : ⦃⌜True⌝⦄ G ⦃⇓ _ n => ⌜P n ∧ P' n⌝⦄

@[spec]
axiom H_spec : ⦃fun n => ⌜Q n⌝⦄ H ⦃⇓ _ => R⦄

theorem F_spec :
   ⦃⌜True⌝⦄
   F
   ⦃⇓ _ => R⦄ := by
  mvcgen [F]

  -- Goal:
  -- s✝¹ : Nat
  -- r✝ : Unit
  -- s✝ : Nat
  -- h : P s✝ ∧ P' s✝
  -- ⊢ Q s✝
  
  rename_i h
  cases h
  apply hPQ
  assumption
  assumption
```
